US07411072B2
3-(6H-Dibenzo[b,e]oxepin-1-ylidenemethyl)-phenylamine
Dissolve 11-(3-Nitro-benzylidene-6,11-dihydro-dibenzo[b,e]oxepine (200 mg) in ethanol (10 mL) add tin chloride dihydrate (680 mg) and reflux for 5 h. Concentrate the reaction in vacuo, re-dissolve in ethyl acetate and wash with 1N sodium hydroxide solution. Separate the layers wash with brine and dry over sodium sulfate. Purity using filter chromatography eluting with 10% ethyl acetate:toluene to give 60 mg of product (56% yield).

reactant | 3-Nitro-benzylidene-6,11-dihydro-dibenzo[b,e]oxepine | 200 mg | [N+](=O)([O-])C=1C=C(C=C2C3=C(CC4=C(O2)C=CC=C4)C=CC=C3)C=CC1 | C21H15NO3
reactant | tin chloride dihydrate | 680 mg | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(6H-Dibenzo[b,e]oxepin-1-ylidenemethyl)-phenylamine | 60 mg, 56% yield | C1(C=CC=C2OCC3=C(C=C21)C=CC=C3)=CC=3C=C(C=CC3)N | C21H17NO
